US04804765
reacting the sodium 2-methoxy-4-amino-5-nitrobenzoate with hydrazine in the presence of Raney nickel to form 2-methoxy-4,5-diaminobenzoic acid;

reactant | sodium 2-methoxy-4-amino-5-nitrobenzoate | COC1=C(C(=O)[O-])C=C(C(=C1)N)[N+](=O)[O-].[Na+]
reactant | hydrazine | NN | H4N2
catalyst | Raney nickel | [Ni] | Ni
product | 2-methoxy-4,5-diaminobenzoic acid | COC1=C(C(=O)O)C=C(C(=C1)N)N | C8H10N2O3
